US07977344B2
2-[(Tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
Tetrahydrofurfuryl alcohol (4.09 g) was diluted with 1,2-dimethoxyethane (20 mL). To this solution was added sodium tert-butoxide (3.84 g) gradually. The resultant reaction mixture was stirred until homogeneous (orange solution) before 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (2.53 g) was added. The reaction mixture was then heated to 110° C. (external) overnight under nitrogen. The reaction mixture was quenched with water (100 mL) and extracted with ethyl acetate (100 mL, 3 times). The organic layer was separated, combined and then dried by passing through a hydrophobic frit. This was evaporated under reduced pressure and the resultant material was then purified by silica chromatography eluting with 0-100% ethyl acetate: cyclohexane followed by methanol. An ISCO pump fault was detected whilst eluting with methanol, this line carried ethyl acetate previously and it was not known if the fault existed when eluting with ethyl acetate: cyclohexane. The appropriate fractions were evaporated to give the title compound as a solid (1.7258 g). This material was used in the next stage without further purification.

reactant | Tetrahydrofurfuryl alcohol | 4.09 g | C(C1CCCO1)O | C5H10O2
reactant | sodium tert-butoxide | 3.84 g | CC(C)([O-])C.[Na+]
reactant | 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 2.53 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12ClN5O
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 2-[(Tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.7258 g | O1C(CCC1)COC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H21N5O3
